US04214094
(a) To 50 ml of absolute ethanol is added 0.58 g of sodium, and 4.2 g of 4-[N-(p-tolyl)formimidoyl]phenol and then 7.84 g of ethyl 2-bromo-2-methylpropionate are added to the solution at room temperature with stirring. The mixture is refluxed under heating and with stirring for 5 hours on an oil bath. After distilling off the ethanol from the reaction mixture, the residue is dissolved in ether. The solution is washed with 5% aqueous solution of sodium hydroxide and then with water. After drying the solution, the ether is distilled off, and the residue is further concentrated under reduced pressure on an oil bath at 100° C. to give 4.0 g of ethyl 2-[4-{N-(p-tolyl)formimidoyl}phenoxy]-2-methylpropionate as an oily product.

reactant | sodium | 0.58 g | [Na] | Na
reactant | 4-[N-(p-tolyl)formimidoyl]phenol | 4.2 g | C1(=CC=C(C=C1)N=CC1=CC=C(C=C1)O)C | C14H13NO
reactant | ethyl 2-bromo-2-methylpropionate | 7.84 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-[4-{N-(p-tolyl)formimidoyl}phenoxy]-2-methylpropionate | 4.0 g | C1(=CC=C(C=C1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)C | C20H23NO3
